US05543409
Under ice cooling, 1.71 g of diethylphosphoryl cyanide was added to 80 ml of a suspension containing 3.06 g of 2-aminomethyl-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide and 1.15 g of 3-methylcrotonic acid suspended in dimethylformamide, and then 20 ml of a solution containing 2.89 g of triethylamine dissolved in dimethylformamide was added dropwise to the mixture. The resulting mixture was stirred at the same temperature for 2.5 hours. The reaction mixture was poured into ice water, and crystals precipitated were collected by filtration. The crystals obtained were washed with water, dried and then recrystallized from ethyl acetate-methanol to obtain 2.45 g of 2-[(3-methylcrotonoyl)amino]methyl-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | diethylphosphoryl cyanide | 1.71 g | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | 2-aminomethyl-5-[pyridazin-3(2H)-on-6-yl]indane·hydrobromide | 3.06 g | NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O.Br
reactant | 3-methylcrotonic acid | 1.15 g | CC(=CC(=O)O)C | C5H8O2
reactant | triethylamine | 2.89 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[(3-methylcrotonoyl)amino]methyl-5-[pyridazin-3(2H)-on-6-yl]indane | 2.45 g | CC(=CC(=O)NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O)C | C19H21N3O2
